US05194603
50 ml of a solution of 1.0 g of 5,10,15,20-tetra(2',6'-dihydroxyphenyl)porphyrin in dry tetrahydrofuran was refluxed at the boiling point in an atmosphere of nitrogen. 5.0 g of anhydrous pivalic acid and then 0.17 g of 4-dimethylaminopyridine were added to the solution, and the mixture was heated under reflux for about 20 hours. The reaction solution was evaporated and the residue obtained was dissolved in 250 ml of chloroform. The chloroform solution was washed with dilute hydrochloric acid and with water. The solution was dehydrated by using anhydrous sodium sulfate and filtered, and the filtrate was evaporated to dryness. The residue obtained was fractionated and purified by chromatography on a column of silica gel (chloroform / ether (10/1) (volume/volume)). The object fractionated was collected and evaporated to dryness under reduced pressure. Thus, 5,10,15,20-tetra(2',6'-dipivaloyloxyphenyl)porphyrin was obtained as violet needle crystals. Yield: 1.15g (60%).

reactant | 5,10,15,20-tetra(2',6'-dihydroxyphenyl)porphyrin | 1.0 g | OC1=C(C(=CC=C1)O)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4O)O)N3)C3=C(C=CC=C3O)O)=N2)C2=C(C=CC=C2O)O | C44H30N4O8
reactant | pivalic acid | 5.0 g | C(C(C)(C)C)(=O)O | C5H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.17 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,10,15,20-tetra(2',6'-dipivaloyloxyphenyl)porphyrin | C(C(C)(C)C)(=O)OC1=C(C(=CC=C1)OC(C(C)(C)C)=O)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)N3)C3=C(C=CC=C3OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)=N2)C2=C(C=CC=C2OC(C(C)(C)C)=O)OC(C(C)(C)C)=O | C84H94N4O16
